US04038405
Ethyl trifluoroacetate (4.3 g) was added to hydrazine hydrate (1.5 g, 99-100%) in methanol (30 ml) at 5°-10° and stirred for 15 min. Ethyl-N-phenylacetimidate (3.9 g) was added keeping the temperature below 10° for 1 hr and then at room temperature for another hour. The mixture was evaporated to dryness under reduced pressure and the residue heated at 90°-100° with glacial acetic acid (50 ml) for 1 hr. Evaporation under reduced pressure and crystallization of the residue from methyl cyclohexane gave 3-methyl-4-phenyl-5-trifluoromethyl-1,2,4-triazole (2.8 g, 41.2%) m.p. 118°. (Found: C, 52.73%; H, 3.72%; F, 25.3%; N, 18.78%. C10H8F3N4 requires: C, 52.87%; H, 3.55%; F, 25.1%; N, 18.50%). δ(CDCl3): 7.47 (5H, m); 2.33 (3H, s). m/e, 227.

reactant | Ethyl trifluoroacetate | 4.3 g | FC(C(=O)OCC)(F)F | C4H5F3O2
reactant | hydrazine hydrate | 1.5 g | O.NN
reactant | Ethyl-N-phenylacetimidate | 3.9 g | C(C)OC(C)=NC1=CC=CC=C1 | C10H13NO
solvent | methanol | 30 ml | CO | CH4O
product | 3-methyl-4-phenyl-5-trifluoromethyl-1,2,4-triazole | 2.8 g, 41.2% | CC1=NN=C(N1C1=CC=CC=C1)C(F)(F)F | C10H8F3N3
